US05519034
A mixture of N-[2-(3-fluoro-4-methoxyphenyl)ethyl]-1-(2,4-dichlorophenyl)cyclopropanecarboxamide (19.7 g, prepared in a similar manner to that described in Example E4), 52% polyphosphate ester in chloroform (200 g) was heated under reflux for 52 hours, then cooled and poured onto ice. The organic layer was separated, the aqueous layer extracted with dichloromethane and the combined organic layers were basified by addition of aqueous ammonia solution, washed with brine, dried over magnesium sulphate and filtered. The solvent was removed in vacuo to yield a solid which was triturated with petroleum ether (b.p. 40°-60° C.) and propan-2-ol. The solid was collected by filtration and dried to yield 1-[1-(2,4-dichlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-3,4-dihydroisoquinoline (10.3 g), m.p. 151°-154° C.

reactant | N-[2-(3-fluoro-4-methoxyphenyl)ethyl]-1-(2,4-dichlorophenyl)cyclopropanecarboxamide | FC=1C=C(C=CC1OC)CCNC(=O)C1(CC1)C1=C(C=C(C=C1)Cl)Cl | C19H18Cl2FNO2
solvent | chloroform | 200 g | C(Cl)(Cl)Cl | CHCl3
product | 1-[1-(2,4-dichlorophenyl)cyclopropyl]-6-fluoro-7-methoxy-3,4-dihydroisoquinoline | 10.3 g | ClC1=C(C=CC(=C1)Cl)C1(CC1)C1=NCCC2=CC(=C(C=C12)OC)F | C19H16Cl2FNO
